US05521311
To 15 ml of an acetone solution containing 0.30 g of N-[5-(n-butylaminoacetylamino)-4-nitro-2-phenoxyphenyl]methanesulfonamide obtained by the procedure of Example 1 was added 0.06 ml of 12N hydrochloric acid, followed by stirring for 15 minutes. The precipitate was collected by filtration and washed with acetone to give 0.24 g of N-[5-(n-butylaminoacetylamino)-4-nitro-2-phenoxyphenyl]methanesulfonamide hydrochloride as yellow crystals.

reactant | N-[5-(n-butylaminoacetylamino)-4-nitro-2-phenoxyphenyl]methanesulfonamide | 0.30 g | C(CCC)NCC(=O)NC=1C(=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1)[N+](=O)[O-] | C19H24N4O6S
reactant | hydrochloric acid | 12N, 0.06 ml | Cl | ClH
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | N-[5-(n-butylaminoacetylamino)-4-nitro-2-phenoxyphenyl]methanesulfonamide hydrochloride | 0.24 g | Cl.C(CCC)NCC(=O)NC=1C(=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1)[N+](=O)[O-] | InChI=1S/C19H24N4O6S.ClH/c1-3-4-10-20-13-19(24)21-15-11-16(22-30(2,27)28)18(12-17(15)23(25)26)29-14-8-6-5-7-9-14;/h5-9,11-12,20,22H,3-4,10,13H2,1-2H3,(H,21,24);1H
